US07968746B2
Following the amide coupling procedure described in protocol A, 499 mg 6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxylic acid (2.00 mmol), 370 mg CDI (2.28 mmol) and 165.2 mg 2-methoxyethylamine (2.20 mmol) produced 6-hydroxy-N-(2-methoxyethyl)-2,5,7,8-tetramethylchroman-2-carboxamide as a white crystalline solid.

reactant | 6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxylic acid | 2.00 mmol, 499 mg | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)O)C)C | C14H18O4
reactant | CDI | 2.28 mmol, 370 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 2-methoxyethylamine | 2.20 mmol, 165.2 mg | COCCN | C3H9NO
product | 6-hydroxy-N-(2-methoxyethyl)-2,5,7,8-tetramethylchroman-2-carboxamide | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)NCCOC)C)C | C17H25NO4
